US08212045B2
(2R,3R)-diethyl 2,3-dihydroxysuccinate (82.99 ml, 485.0 mmol) was dissolved in Toluene (400 mL) and cyclohexanone (55.29 ml, 533.5 mmol) and Amberlyst 15 ion-exchange resin (2.0 g) were added and the reaction refluxed under dean stark trap for 12 hours. The reaction was cooled to ambient temperature, filtered and concentrated. The residue was distilled at 0.5 mM Hg and the 125-140° C. fraction was collected to afford (2R,3R)-diethyl 1,4-dioxaspiro[4.5]decane-2,3-dicarboxylate (91.3 g, 66% yield).

reactant | (2R,3R)-diethyl 2,3-dihydroxysuccinate | 485.0 mmol, 82.99 ml | O[C@@H](C(=O)OCC)[C@H](C(=O)OCC)O | C8H14O6
reactant | cyclohexanone | 533.5 mmol, 55.29 ml | C1(CCCCC1)=O | C6H10O
solvent | Toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | (2R,3R)-diethyl 1,4-dioxaspiro[4.5]decane-2,3-dicarboxylate | 91.3 g, 66% yield | O1[C@H]([C@@H](OC12CCCCC2)C(=O)OCC)C(=O)OCC | C14H22O6
